US07910588B2
Add 4-cyanomethylenepiperidine-1-carboxylic acid t-butyl ester (5.39 g, 24.25 mmol) in ethanol (160 mL) to a suspension of 5% palladium on charcoal (0.69 g) in ethanol (20 mL) and hydrogenate at room temperature with agitation at 60 psi for 6 hr. Filter the mixture through celite and evaporate the solvent in vacuo to give 4-cyanomethylpiperidine-1-carboxylic acid t-butyl ester as an oil which solidifies on standing to give a solid (5.43 g, 99.8%). MS (m/z): 247 (M+Na).

reactant | 4-cyanomethylenepiperidine-1-carboxylic acid t-butyl ester | 24.25 mmol, 5.39 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=CC#N | C12H18N2O2
solvent | ethanol | 160 mL | C(C)O | C2H6O
catalyst | palladium on charcoal | 0.69 g | [Pd] | Pd
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 4-cyanomethylpiperidine-1-carboxylic acid t-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)CC#N | C12H20N2O2
